US08492548B2
2-Chloro-N-(pyridin-2-yl)acetamide (30.4 mg, 0.18 mmol) was added to a solution of (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate (diastereomer 1 of I2) (60 mg, 0.18 mmol) in EtOAc (2 ml). The reaction mixture was stirred at room temperature overnight (UPLC-MS: complete conversion). The solvent was evaporated, and the crude rodcut was triturated with Et2O (2 ml). The product was further purified by preparative HPLC to obtain (R)-1-(2-oxo-2-(pyridin-2-ylamino)ethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane chloride (34.5 mg, 38.2% yield).

reactant | 2-Chloro-N-(pyridin-2-yl)acetamide | 0.18 mmol, 30.4 mg | ClCC(=O)NC1=NC=CC=C1 | C7H7ClN2O
reactant | (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate | 0.18 mmol, 60 mg | C1(=CC=CC=C1)[C@H](C(=O)O[C@H]1CN2CCC1CC2)NC2=CC=CC=C2 | C21H24N2O2
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
product | (R)-1-(2-oxo-2-(pyridin-2-ylamino)ethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane chloride | 34.5 mg, 38.2% yield | [Cl-].O=C(C[N+]12C[C@@H](C(CC1)CC2)OC([C@H](NC2=CC=CC=C2)C2=CC=CC=C2)=O)NC2=NC=CC=C2 | InChI=1S/C28H30N4O3.ClH/c33-26(31-25-13-7-8-16-29-25)20-32-17-14-21(15-18-32)24(19-32)35-28(34)27(22-9-3-1-4-10-22)30-23-11-5-2-6-12-23;/h1-13,16,21,24,27,30H,14-15,17-20H2;1H/t21?,24-,27+,32?;/m0./s1
